US05236952
A solution of 10.0 g of 1-[(benzyloxy)-methyl]imidazole in 50 ml of acetonitrile is added dropwise within 10 minutes while cooling with ice to a solution of 13.0 g of 3,4-dimethoxy-5-nitrobenzoyl chloride and 5.4 g of triethylamine in 80 ml of acetonitrile so that the temperature does not exceed 25°. The mixture is subsequently stirred for an additional 3 hours, whereupon the solvent is distilled. After treatment with water, the mixture is extracted with ethyl acetate. After two-fold washing with water, the organic phase is dried over sodium sulfate and evaporated. The resulting oil is chromatographed on 600 g of silica gel with toluene/ethyl acetate (95:5). There is obtained 1-[(benzyloxy)methyl]imidazol-2-yl (3,4-dimethoxy-5-nitrophenyl) ketone as a yellowish oil

reactant | 1-[(benzyloxy)-methyl]imidazole | 10.0 g | C(C1=CC=CC=C1)OCN1C=NC=C1 | C11H12N2O
reactant | 3,4-dimethoxy-5-nitrobenzoyl chloride | 13.0 g | COC=1C=C(C(=O)Cl)C=C(C1OC)[N+](=O)[O-] | C9H8ClNO5
reactant | triethylamine | 5.4 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
product | 1-[(benzyloxy)methyl]imidazol-2-yl (3,4-dimethoxy-5-nitrophenyl) ketone | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C(=O)C=1N(C=CN1)COCC1=CC=CC=C1 | C20H19N3O6
